US04962115
A mixture of 9.3 parts of 5-chloro-1,3-dihydro-1(3-hydroxypropyl)-2H-benzimidazol-2-one and 83 parts of a hydrobromic acid solution 48% in water was stirred and refluxed for 6 hours. The reaction mixture was cooled and allowed to crystallize overnight at room temperature. The precipitated product was filtered off and stirred a few times in 100 parts of water till the pH of the filtrate was greater than 2. The product was stirred and refluxed for 1 hour in 55 parts of chlorobenzene with 1.3 parts of activated charcoal. The latter was filtered off and the filtrate was allowed to crystallize overnight in an ice-box. The product was filtered off and recrystallized twice: first from chlorobenzene (activated charcoal) and then from methylbenzene (activated charcoal), yielding 4.9 parts of 1-(3-bromo- propyl)-5-chloro-1,3-dihydro-2H-benzimidazol-2-one; mp. 161.5° C. (intermediate 29).

reactant | 5-chloro-1,3-dihydro-1(3-hydroxypropyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)CCCO)C=C1 | C10H11ClN2O2
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 1-(3-bromo- propyl)-5-chloro-1,3-dihydro-2H-benzimidazol-2-one | BrCCCN1C(NC2=C1C=CC(=C2)Cl)=O | C10H10BrClN2O
